US04313956
3-Pivalyloxy-4-pivalyloxymethoxybenzaldehyde
3,4-Dihydroxybenzaldehyde (27.6 g, 0.2 mol) was dissolved in 100 mL of DMF with 45 mL of triethylamine and 40 mL of pivalyloxymethyl chloride. The mixture was stirred at room temperature for five days. After one day 20 mL of pivalyloxymethyl chloride and 20 ml of triethylamine were added to the mixture. The mixture was then poured into 600 mL of water. The water was extracted with 600 mL of CH2Cl2 and twice with 500 mL of ether. The organic layers were concentrated and that residue was chromatographed on silicAr CC-7 using petroleum ether bp 30°-60°, acetone (1:1) as the eluent to give the desired compound: mp 58°-60°.

reactant | 3,4-Dihydroxybenzaldehyde | 0.2 mol, 27.6 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | water | 600 mL | O | H2O
reactant | pivalyloxymethyl chloride | 40 mL | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | pivalyloxymethyl chloride | 20 mL | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 45 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 3-Pivalyloxy-4-pivalyloxymethoxybenzaldehyde | C(C(C)(C)C)(=O)OC=1C=C(C=O)C=CC1OCOC(C(C)(C)C)=O | C18H24O6
